US05530015
A mixture of 10 g of 4-bromo-2-isopropylphenyl benzyl ether, 4.7 g of 4-ethoxyphenol, 4.7 g of potassium carbonate, 0.30 g of copper powder, 0.30 g of cuprous iodide and 30 ml of pyridine was stirred at 130° C. to 140° C. for 24 hours. The reaction solution was cooled to room temperature, poured into ice-water and then acidified by adding 10% hydrochloric acid. The solution was extracted with 100 ml of diethyl ether, washed in turn with 10% hydrochloric acid, an aqueous 10% sodium hydroxide solution and a saturated saline solution, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give 4.4 g of 4-(4-ethoxyphenoxy)-2-isopropylphenyl benzyl ether (yield, 37%).

reactant | 4-bromo-2-isopropylphenyl benzyl ether | 10 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C(C)C | C16H17BrO
reactant | 4-ethoxyphenol | 4.7 g | C(C)OC1=CC=C(C=C1)O | C8H10O2
reactant | potassium carbonate | 4.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
catalyst | copper | 0.30 g | [Cu] | Cu
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-ethoxyphenoxy)-2-isopropylphenyl benzyl ether | 4.4 g, 37% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC1=CC=C(C=C1)OCC)C(C)C | C24H26O3
